US07525717B2
2-(2-Bromophenyl)-1-methyl-1H-benzimidazole
To a flask were added 3.3 g 2-(2-bromophenyl)-1H-benzimidazole and 100 ml tetrahydrofuran and the mixture was cooled to 10 C under nitrogen. 0.63 g Sodium hydride were added in portions and the reaction mixture was stirred for 20 minutes. 2.0 g Dimethylsulfate were added and the mixture was heated to 22 C for 30 minutes. The mixture was quenched slowly with 100 ml water, extracted with ethyl acetate and then extracted into a 1M hydrochloric acid solution. The solution was washed with ethyl acetate and then basified with 3M sodium hydroxide. Following extraction with ethyl acetate and solvent removal, the solid was dissolved in a hot mixture of 20 ml hexane with 4 ml 2-propanol. After cooling to 5 C, the product was filtered, washed with hexane and dried giving 2.9 g of a white solid.

reactant | 2-(2-bromophenyl)-1H-benzimidazole | 3.3 g | BrC1=C(C=CC=C1)C1=NC2=C(N1)C=CC=C2 | C13H9BrN2
reactant | Sodium hydride | 0.63 g | [H-].[Na+]
reactant | Dimethylsulfate | 2.0 g | COS(=O)(=O)OC | C2H6O4S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(2-Bromophenyl)-1-methyl-1H-benzimidazole | 2.9 g | BrC1=C(C=CC=C1)C1=NC2=C(N1C)C=CC=C2 | C14H11BrN2
